2105-08-14 01:31:00 Physician Attending Progress Note
Chief Complaint: bowel perforation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80W recent inguinal hernia repair. One week later developed worsening
   abd pain. Imaging and exam concerning for bowel obstruction and
   perforation. Transverse colectomy performed. Drains 2 days ago produced
   significant bilious fluid. Surgeons worried about new small bowel
   perforation and peritonitis.
   Also, intermittantly in a-fib. Current with abdominal pain.
   24 Hour Events:
                                     History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2105-8-13**] 10:35 PM
   Diltiazem - [**2105-8-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   HTN
   colon ca s/p resection
   breast cancer - resection, XRT
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2105-8-14**] 01:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.3
   HR: 97 (97 - 141) bpm
   BP: 103/42(57) {103/42(57) - 135/71(83)} mmHg
   RR: 27 (27 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                    120 mL
                                                                    104 mL
   PO:
             TF:
   IVF:
                                                                    120 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    100 mL
   Urine:
                                                                    340 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                 -1,010 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 4 LPM
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Tender: LLQ, ostomy, jp drains
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   638 K/uL
   81 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.1 mEq/L
   37 mg/dL
   104 mEq/L
   143 mEq/L
   33.7 %
   31.1 K/uL
        [image002.jpg]
                             [**2105-8-13**]  10:16 PM
   WBC
   31.1
   Hct
   33.7
   Plt
   638
   Cr
   0.6
   Glucose
   81
   Other labs: PT / PTT / INR:15.3/31.4/1.3, ALT / AST:[**10-16**], Alk Phos / T
   Bili:50/0.4, Differential-Neuts:87.9 %, Lymph:6.2 %, Mono:5.1 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:285 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR loss of left HD, hazy bases though no obvious infiltrate
   Assessment and Plan
   possible second bowel perforation with peritonitis - continue emperic
   antibiotics and likely ex-lap tomorrow.
   a-fib - will begin dilt infusion
   hypoxemia - perhaps related to atelectasis and volume overload, follow
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-8-13**] 09:00 PM
   20 Gauge - [**2105-8-13**] 09:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2105-08-14 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started dilt drip
   - started vanc/zosyn
   - sent cultures
   - ordered PPN for now, with do nutrtion c/s for TPN in AM
   - surgery eval pt- likely OR in AM
   - serial abd exams
   - KUB shows no free air
   - NG tube to suction/ NPO
   - IV Morphine for pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-8-13**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-8-13**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2105-8-13**] 10:35 PM
   Heparin Sodium (Prophylaxis) - [**2105-8-14**] 12:00 AM
   Diltiazem - [**2105-8-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-8-14**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 80 (80 - 141) bpm
   BP: 126/49(65) {101/41(57) - 135/71(83)} mmHg
   RR: 26 (24 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  1,020 mL
                                                                  1,284 mL
   PO:
             TF:
   IVF:
                                                                  1,020 mL
                                                                  1,284 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    950 mL
   Urine:
                                                                    340 mL
                                                                    385 mL
   NG:
   100 mL
   Stool:
   Drains:
                                                                    140 mL
                                                                    165 mL
   Balance:
                                                                   -110 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General: Thin, AAOx3, pleasant
   Cardiovascular: irregularly irregular
   Respiratory: CTAB
   Abdominal: colostomy and both drains draining bilious fluid, colostomy
   fluid is guaiac positive. Patient's abdomen acutely tender to palpation
   in LLQ otherwise mildly distended but soft and non-tender.
   Extremities: no edema
   Neurologic: no focal deficit
   Labs / Radiology
   524 K/uL
   9.9 g/dL
   158 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   33 mg/dL
   103 mEq/L
   138 mEq/L
   30.2 %
   23.3 K/uL
        [image002.jpg]
                             [**2105-8-13**]  10:16 PM
                             [**2105-8-14**]  04:24 AM
   WBC
   31.1
   23.3
   Hct
   33.7
   30.2
   Plt
   638
   524
   Cr
   0.6
   0.6
   Glucose
   81
   158
   Other labs:
   PT / PTT / INR:16.5/35.1/1.5,
   ALT / AST:[**10-16**], Alk Phos / T Bili:50/0.4,
   Differential-Neuts:87.9 %, Lymph:6.2 %, Mono:5.1 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:285 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Assessment and Plan: 80 year old woman with recent L hernia repair, s/p
   stercoral ulcer perforation, bowel resection who was transferred from
   [**Hospital 10078**] hospital with ? new obstruction.
   .
   # Abdominal Pain:  Likely secondary to infection in peritoneal cavity
   and possible obstruction. The patient appeared to be improving and
   drain output suddenly became bilious yesterday indicating that there
   might be a new perf.  Given patient's history and peritoneal signs, the
   patient likely will require ex-lab. However, patient's pain is still
   localized so likely non-emergent surgery.  Would consider emergent
   surgery if patient's abdominal pain becomes more diffuse or if KUB
   concerning.
   -NG tube to wall suction
   -serial abdominal exams
   -KUB to eval for free air
   -culture from J-tubes (including fungal)
   -Vanco/Zosyn for coverage of bowel flora found in OR.
   -surgery team has CT from OSH and will upload and look at in the AM.
   -pain control with IV morphine
   -f/u surgery recs.
   .
   # Leukocytosis: Likely related to abdominal infection and possible
   bowel perf, though cannot rule out other infections given
   hospitalization.
   -check blood culture
   -check urine culture
   -check C. Diff
   -check cultures from all drains
   -Vanco/Zosyn as above
   .
   # Atrial Fibrillation with RVR:
   -dilt gtt
   -repeat EKG when rate slower
   -fluids
   -pain management as above
   .
   # Hypoxia: PAtient without fever, cough, though lungs sound
   rhonchorous. Has been stable on 2-4L 02. DDx includes rate-related from
   her A. fib, pneumonia, aspiration, effusions from abdominal
   inflammation.
   -chest Xray
   -02 sats via nasal cannula to maintain 02 sat >90%
   -antibiotics as above will cover hospital acquired or aspiration PNA.
   .
   # H/o Hypertension:
   -Dilt as above while in the ICU.
   -call patient's PCP for [**Name9 (PRE) **] dose
   .
   #? h/o MI: unclear history, patient reports being on 2 baby aspirin.
   -call patient's PCP
   [**Name9 (PRE) **] aspirin pending surgery
   .
   FEN: Patient came on TPN (strict NPO), will get Premixed tonight,
   nutrition consult in AM for TPN recs. Monitor lytes.
   .
   Prophylaxis: Subutaneous heparin
   .
   Access/Drains: right subclavian central line (from [**8-12**] at OSH), left
   peripheral 20, 2 JP drains, colostomy, NGtube.  Will d/c central line
   in the AM if patient stable overnight.
   .
   Code:  Full (discussed with patient)
   .
   Communication: Patient and health care proxy, her daughter.
   .
   Disposition: likely to OR tomorrow, may require further ICU admission
   post-op.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-8-13**] 09:00 PM
   20 Gauge - [**2105-8-13**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-08-14 11:16:00 Physician Attending Progress Note
Chief Complaint: Atrial Fibrillation
   Bowel obstruction--s/p Colectomy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2105-8-13**] 09:00 PM
   Budding yeast seen in drain fluid
   Dilt gtt started for Atrial Fibrillation
   Surgery in with opinion to move to OR for exploratory laparotomy
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-8-13**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-8-13**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2105-8-13**] 10:35 PM
   Heparin Sodium (Prophylaxis) - [**2105-8-14**] 12:00 AM
   Diltiazem - [**2105-8-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2105-8-14**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 81 (80 - 141) bpm
   BP: 126/58(76) {101/41(57) - 135/71(83)} mmHg
   RR: 26 (24 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  1,020 mL
                                                                  1,830 mL
   PO:
             TF:
   IVF:
                                                                  1,020 mL
                                                                  1,830 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                    980 mL
   Urine:
                                                                    340 mL
                                                                    385 mL
   NG:
   100 mL
   Stool:
   Drains:
                                                                    140 mL
                                                                    195 mL
   Balance:
                                                                   -110 mL
                                                                    850 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   524 K/uL
   158 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   33 mg/dL
   103 mEq/L
   138 mEq/L
   30.2 %
   23.3 K/uL
        [image002.jpg]
                             [**2105-8-13**]  10:16 PM
                             [**2105-8-14**]  04:24 AM
   WBC
   31.1
   23.3
   Hct
   33.7
   30.2
   Plt
   638
   524
   Cr
   0.6
   0.6
   Glucose
   81
   158
   Other labs: PT / PTT / INR:16.5/35.1/1.5, ALT / AST:[**10-16**], Alk Phos / T
   Bili:50/0.4, Differential-Neuts:87.9 %, Lymph:6.2 %, Mono:5.1 %,
   Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:285 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Microbiology: Peritoneal Fluid-_PMN's and Budding Yeast
   Assessment and Plan
   80 yo female with h/o HTN and colon cancer now has had colectomy due to
   significant bowel obstruction--on follow up CT scan--patient had
   concern raised for bowel perforation with IP drains showing concerning
   bilious drainge which would be consistent with bowel perforation.  Upon
   transfer to [**Hospital1 19**] patient with clinical course notable for atrial
   fibrillation with persistent tachycardia.
   1)Colonic Obstruction--S/P Colectomy-Concern for leak or peritoneal
   space infection or small bowel involvement is significant.
   -npo
   -On TPN
   -Plans for exploration this morning by Dr. [**Last Name (STitle) **]
both surgery and
   nursing in to see patient.
   -Broad spectum antibiotics with expansion to fungal coverage in place.
   -Vanco/ZOsyn
   2)
 ATRIAL FIBRILLATION (AFIB)
   -Diltiazem gtt
   -Continue with fluid bolus as needed
 PERITONITIS (NON-SBP)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition: npo
on TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-8-13**] 09:00 PM
   20 Gauge - [**2105-8-14**] 07:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes